* source POWERSYSTEM_SIMULATIONS
S_U5         N35312 0 N35460 0 _U5
.MODEL      _U5 VSWITCH Roff=100000000 Ron=0.01 VH=0 VT=2.5VDC TD=0
C_C19         N35300 N35162  10u  TC=0,0 
X_D1         N35320 N35312 awb1n4001 PARAMS:                
R_R4         N35320 N35162  100k TC=0,0 
R_R2         N35200 N35116  100k TC=0,0 
V_V2         N35460 0  
+PULSE 0 5 100m 100n 100n 400m 2
C_C18         N35200 N35116  100n  TC=0,0 
C_C1         N35312 N35200  100n  TC=0,0 
S_U2         N35320 0 N35632 0 _U2
.MODEL      _U2 VSWITCH Roff=1000000000 Ron=0.01 VH=0 VT=2.5VDC TD=0
M_M1         N35162 N35200 N35116 N35116 Mbreakp           
V_V3         N35632 0  
+PULSE 5 0 300m 300n 300n 2 4
R_R1         N35312 N35116  10k TC=0,0 
M_M2         N35200 N35300 0 0 MbreakN           
R_R3         N35300 N35320  300k TC=0,0 
R_R9         N37973 0  1.2k TC=0,0 
R_Rsc2         N37799 N37893  0.22 TC=0,0 
C_C12         0 N37931  330u  TC=0,0 
X_D3         N37819 N37931 awb1n5819 PARAMS:                
R_R8         N37973 N37931  3.6k TC=0,0 
R_R7         N49005 N37799  180 TC=0,0 
C_C10         0 N37893  100u  TC=0,0 
C_C11         N44823 0  1.5n  TC=0,0 
L_L3         N37799 N37819  170u  
V_V4         N35116 0 4.1Vdc
C_C22         0 N37893  100n  TC=0,0 
C_C23         0 N35116  10u  TC=0,0 
X_U6          N37973 N49005 0 N37799 N37819 0 N44823 N37893 MC33063A-Q1_TRANS
C_C24         0 N44923  100u  TC=0,0 
C_C25         0 N44923  100n  TC=0,0 
L_L4         N37931 N44923  1uH  
R_Rlidar         N44923 0  1k TC=0,0 
V_V6         N37893 0  
+PULSE 0 3.9 30m 300n 300n 100m 400m
** Floating/unmodeled pin fixups **
R__UC0001   N37799  0   {1/GMIN}
